US07687502B2
[6-(1-Methyl-1H-imidazol-2-ylsulfanyl)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 9 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, thiazolo[5,4-b]pyridin-2-yl-amine and 2-mercapto-1-methyl-imidazole.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 2-mercapto-1-methyl-imidazole | SC=1N(C=CN1)C | C4H6N2S
product | [6-(1-Methyl-1H-imidazol-2-ylsulfanyl)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine | CN1C(=NC=C1)SC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C18H13N7S2
